US05776959
Preparation of methyl 2-ethyl-2-(1-methylethyl)-4-oxobutanoate
The reaction of the olefinic ester, methyl 2-ethyl-2-(1-methylethyl)-4-pentenoate (9.20 g, 50 mmol), with ozone in CH2Cl2 (200 mL) at -78° C., followed by the treatment of the resulting ozonide with Ph3P (19.65 g, 75 mmol) as described above in the preparation of Example 7, gave 14.36 g of an oily residue. Flash chromatography over silica gel (hexanes-EtOAc, 9:1) afforded the aldehyde (8.20 g, 88%) as a colorless oil.

reactant | methyl 2-ethyl-2-(1-methylethyl)-4-pentenoate | 50 mmol, 9.20 g | C(C)C(C(=O)OC)(CC=C)C(C)C | C11H20O2
reactant | ozone | O=[O+][O-] | O3
reactant | Ph3P | 75 mmol, 19.65 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-ethyl-2-(1-methylethyl)-4-oxobutanoate | 14.36 g | C(C)C(C(=O)OC)(CC=O)C(C)C | C10H18O3
